US08022206B2
7-[(1S)-1-(6-phenyl[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridin-6-amine
A mixture of 7-[(S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridine-6-ylamine (15.0 mg, 0.045 mmol), phenylboronic acid (11.1 mg, 0.091 mmol), Pd(PPh3)4 (5 mg, 0.004 mmol), potassium carbonate (18.8 mg, 0.136 mmol) and 4:1 dioxane:water (2 mL) was heated in a microwave reactor at 100° C. for 30 min. The solution was loaded into a SCX cartridge, washed with MeOH and ejected with 2M NH3 in MeOH. The filtrate was concentrated in vacuo, redissolved in MeOH (0.5 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=2.10 (d, J=6.8 Hz, 3H), 6.55 (q, J=6.6 Hz, 1H), 6.77 (d, J=2.5 Hz, 1H), 7.48-7.56 (m, 3H), 7.59 (d, J=2.3 Hz, 1H), 7.76 (d, J=9.6 Hz, 1H), 7.80-7.85 (m, 2H), 8.05 (s, 1H), 8.21 (d, J=9.6 Hz, 1H). MS (ES+): m/z 373.09 (100) [MH+]. HPLC: tR=2.28 min (ZQ3, polar—5 min).

reactant | 7-[(S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridine-6-ylamine | 0.045 mmol, 15.0 mg | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C=CO1 | C14H11ClN6O2
reactant | phenylboronic acid | 0.091 mmol, 11.1 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.136 mmol, 18.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | 7-[(1S)-1-(6-phenyl[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]furo[3,2-c]pyridin-6-amine | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C=CO1 | C20H16N6O2
